US07105531B2
4-(4-Chloro-2-fluorophenoxy)-benzo[4,5]furo[3,2-b]pyridine-3-carbonitrile
A mixture of 0.530 mL (4.1 mmol) of 4-chloro-2-fluorophenol and 70 mg (1.25 mmol) of potassium hydroxide is heated until a homogeneous solution is formed. To this is added 170 mg (0.74 mmol) of 4-chlorobenzo[4,5]-furo[3,2-b]pyridine-3-carbonitrile and the mixture is heated for 1 hour. Ethyl acetate is added and the solution is washed with 1 N NaOH. The organic layer is dried over sodium sulfate, filtered through a pad of diatomaceous earth and concentrated in vacuo. The solid is collected to give 115 mg (46%) of a beige solid, mp 138–140° C.

reactant | 4-chloro-2-fluorophenol | 4.1 mmol, 0.530 mL | ClC1=CC(=C(C=C1)O)F | C6H4ClFO
reactant | potassium hydroxide | 1.25 mmol, 70 mg | [OH-].[K+]
reactant | 4-chlorobenzo[4,5]-furo[3,2-b]pyridine-3-carbonitrile | 0.74 mmol, 170 mg | ClC1=C2C(=NC=C1C#N)C1=C(O2)C=CC=C1 | C12H5ClN2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(4-Chloro-2-fluorophenoxy)-benzo[4,5]furo[3,2-b]pyridine-3-carbonitrile | 115 mg, 46% | ClC1=CC(=C(OC2=C3C(=NC=C2C#N)C2=C(O3)C=CC=C2)C=C1)F | C18H8ClFN2O2
